US07776877B2
A 30 mL scintillation vial was charged with 2-azido-4-chloro-1-nitrobenzene (200 mg, 1.0 mmol) and 0.75 M 3-methyl-1-butynylmagnesium chloride in THF (1.6 mL, 1.2 mmol; prepared by mixing 3-methyl-1-butyne (120 μL, 1.2 mmol) and iPrMgCl (1.5 mL, 1.0 M in THF) at room temperature, heating to 40° C. for 30 minutes then cooling to room temperature). The reaction was allowed to stir at room temperature for 1 hour after which the reaction was quenched with SiO2 and the solvent removed. The product (adsorbed to SiO2) was then loaded on a SiO2 column and purified to give 1-(5-chloro-2-nitro-phenyl)-5-isopropyl-1H-[1,2,3]triazole.

reactant | 2-azido-4-chloro-1-nitrobenzene | 1.0 mmol, 200 mg | N(=[N+]=[N-])C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3ClN4O2
reactant | 3-methyl-1-butynylmagnesium chloride | 0.75 M | CC(C#C[Mg]Cl)C
reactant | 3-methyl-1-butyne | 1.2 mmol, 120 μL | CC(C#C)C | C5H8
reactant | iPrMgCl | 1.0 M, 1.5 mL | C(C)(C)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 1-(5-chloro-2-nitro-phenyl)-5-isopropyl-1H-[1,2,3]triazole | ClC=1C=CC(=C(C1)N1N=NC=C1C(C)C)[N+](=O)[O-] | C11H11ClN4O2
